US04131686
4.55 g of 2-methoxy-α-chloroacetophenone are dissolved in 70 ml of dioxane, and 30 ml of water are added thereto. 1.5 g of sodium borohydride are added gradually to the solution at 10° to 20° C. Then, the mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into ice-water. The aqueous mixture is extracted with benzene. Then, the extract is dried and evaporated to remove solvent. 3.7 g of α-chloromethyl-2-methoxybenzylalcohol are obtained as a crude oil.

reactant | 2-methoxy-α-chloroacetophenone | 4.55 g | COC(C(=O)C1=CC=CC=C1)Cl | C9H9ClO2
reactant | water | 30 ml | O | H2O
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | α-chloromethyl-2-methoxybenzylalcohol | 3.7 g | ClCC(C1=C(C=CC=C1)OC)O | C9H11ClO2
